* gnetlist -g spice-noqsi -o test_frequency_trap.net test_frequency_trap.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Ctest 1 Vout 1n      
Vtest Vtest GND dc 0
+ac 1
Rs Vtest Vout 1e99 ac=1e-6      
Ltest 1 GND 1  
.control
op
ac lin 100000 5032.92 5032.93
write frequency_trap.raw
gnuplot vtest db(vtest)
gnuplot vout db(vout)
*plot Vtest Vout
tran 0.1p 400p
plot vtest vout
.endc

