* gnetlist -g spice-noqsi -o test_transconductance_vccs.net test_transconductance_vccs.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
Vin Vin GND AC 1 DC 'SUPPLY'
Vd Vdd GND 'SUPPLY'
V_IP_out Cout G1_out DC 0V  
R1 GND Cout 100G      
G1 G1_out GND Vin GND 20m
Cout GND Cout 1n      
.GLOBAL Vdd Vss
.PARAM SUPPLY=3.3v
.control
ac lin 100 1 10G
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_vccs.log
.endc

